US07989457B2
To a solution of 6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester (13.7 g, 48.7 mmol) in THF (100 mL) is added LiAlH4 (1.0 M in THF, 50 mL, 50 mmol) at 0˜5° C., the reaction mixture is stirred for 2 hr, quenched by water and 5N NaOH (0.5 mL) carefully. The resulting mixture is diluted with ethyl acetate and filtered through celite. Concentration of the filtrate gives [6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol (12.8 g).

reactant | 6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | 48.7 mmol, 13.7 g | COC(C1=CN=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C14H10F3NO2
reactant | LiAlH4 | 50 mmol, 1.0 M, 50 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | [6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | 12.8 g | FC(C1=CC=C(C=C1)C1=CC=C(C=N1)CO)(F)F | C13H10F3NO
